US06271193B1
Preparation of 1,1,2,3,3-Pentamethyl-4-Formyl-4,5,6,7-Tetrahydroindane
prepared according to the disclosure of U.S. Pat. No. 4,902,840 issued on Feb. 20, 1990, the specification for which is incorporated herein by reference; 20% 1,1,2,3,3-pentamethylindane and 35% hexahydro-1,1,2,3,3-pentamethylindane is heated to 150° C. Hydrogen chloride gas evolves and is passed through a caustic soda scrubber. This solution is then washed with a 5% aqueous sodium hydroxide solution, dried over anhydrous magnesium sulfate and used without further purification in the next step, the carrying out of an oxo-reaction.

reactant | 1,1,2,3,3-pentamethylindane | CC1(C(C(C2=CC=CC=C12)(C)C)C)C | C14H20
reactant | hexahydro-1,1,2,3,3-pentamethylindane | CC1(C(C(C2CCCCC12)(C)C)C)C | C14H26
reactant | Hydrogen chloride | Cl | ClH
reactant | caustic soda | [OH-].[Na+]
product | 1,1,2,3,3-Pentamethyl-4-Formyl-4,5,6,7-Tetrahydroindane | CC1(C(C(C=2C(CCCC12)C=O)(C)C)C)C | C15H24O
